Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Seroquel / Erythromycin Base / 
Reglan
 
Attending: ___.
 
Chief Complaint:
Abdominal Pain
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ is a ___ y/o F with a history of gastroparesis s/t 
eating disorder who presents with abdominal pain x 5 days in the 
setting of multiple G tube replacements. 

She had a G tube for venting and an NJ tube for nutrition placed 
this past ___, and was tolerating this well until 6 days 
PTA, when a hole developed in the lining of the G tube tubing. 
She went to ___ where they replaced the G tube 
with a Foley. 5 days PTA she started developing abdominal pain 
(constant, dull, worse with movement) and the Foley ended up 
"falling out." It was discovered that the balloon of the Foley 
had burst and a new Foley was placed. She continued to have pain 
before presenting to the ED today. 

She states pain is similar to when her prior GJ tubes have 
"flipped" and failed. Also of note had vomiting 1 day PTA in 
which her NJ tube coiled in her throat and she self dc'ed it. 
There is some serosang discharge from the G tube site but no 
pus. 

ROS positive for nausea and vomiting (patient states this is not 
abnormal for her) and constipation but negative for 
fevers/chills/sweats, SOB, trouble breathing, dysuria. 

The pain is relieved by dilaudid (patient has tried morphine and 
vicodin before; morphine gives her a rash and vicodin is 
effective but not as potent as the dilaudid). Of note, she is 
scheduled for replacement of a new brand of GJ tube 3 days from 
now. At baseline she can tolerate all liquids without vomiting 
and can tolerate pureed foods. 

In the ED VS were 97.6 54 105/69 16 100%. She as given IV 
dilaudid and NS fluids before being transferred to the floor for 
pain control. 
 
Past Medical History:
Gastroparesis
Bipolar disorder
Eating disorder (likely etiology of gastroparesis)
 

 
Social History:
___
Family History:
Pertinent for mother with breast cancer and a half sister with 
type 1 diabetes and a cousin with ___ disease.

 
Physical Exam:
Admission:
Physical Exam:  
Vitals:97.2 114/59 72 20 98 RA
General: Alert, oriented, no acute distress  
HEENT: MMM
Neck: JVD not elevated
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: Normal S1 + S2, no murmurs  
Abdomen: soft, non-distended, bowel sounds present, no rebound 
tenderness or guarding. TTP around G tube site, some serosang 
drainage, no erythema warmth or fluctuance. 
Ext: Warm, well perfused
 
Discharge:
Physical Exam:  
Vitals:98.2 111/58 77 20 100 RA
General: Alert, oriented, no acute distress  
HEENT: Moist
Lungs: Clear to auscultation bilaterally, no adventitious 
sounds.   
CV: Normal S1 + S2, no murmurs  
Abdomen: soft, non-distended, bowel sounds present, no rebound 
tenderness or guarding. TTP distinctly around G tube site, some 
serosang drainage, no erythema warmth or fluctuance around site. 

Ext: Warm, well perfused

 
Pertinent Results:
Relevant:
___ 05:15AM BLOOD WBC-7.5 RBC-4.04* Hgb-12.3 Hct-37.2 
MCV-92 MCH-30.3 MCHC-33.0 RDW-12.0 Plt ___
___ 09:40AM BLOOD WBC-5.8 RBC-4.66 Hgb-14.4 Hct-42.6 MCV-91 
MCH-30.9 MCHC-33.9 RDW-11.9 Plt ___
___ 09:40AM URINE Color-Straw Appear-Clear Sp ___
___ 09:40AM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-8.5* Leuks-SM 
___ 09:40AM URINE RBC-0 WBC-3 Bacteri-NONE Yeast-NONE Epi-1
___ 09:40AM URINE Mucous-RARE
___ 09:40AM URINE UCG-NEGATIVE
___ 09:40AM BLOOD Lipase-35
___ 09:40AM BLOOD ALT-15 AST-19 AlkPhos-63 TotBili-0.3

Admission:
___ 09:40AM BLOOD WBC-5.8 RBC-4.66 Hgb-14.4 Hct-42.6 MCV-91 
MCH-30.9 MCHC-33.9 RDW-11.9 Plt ___
___ 09:40AM BLOOD Neuts-55.9 ___ Monos-4.7 Eos-2.3 
Baso-0.7
___ 09:40AM BLOOD Plt ___
___ 09:40AM BLOOD Glucose-92 UreaN-6 Creat-0.8 Na-139 K-4.3 
Cl-104 HCO3-30 AnGap-9
___ 09:40AM BLOOD ALT-15 AST-19 AlkPhos-63 TotBili-0.3
___ 09:40AM BLOOD Albumin-4.3

Discharge:
___ 05:15AM BLOOD WBC-7.5 RBC-4.04* Hgb-12.3 Hct-37.2 
MCV-92 MCH-30.3 MCHC-33.0 RDW-12.0 Plt ___
___ 05:15AM BLOOD Plt ___
___ 05:15AM BLOOD Glucose-97 UreaN-3* Creat-0.7 Na-137 
K-3.5 Cl-106 HCO3-26 AnGap-9
___ 05:15AM BLOOD Calcium-9.0 Phos-3.4 Mg-1.___bdominal Pain: 
Given that the patient had a h/o gastroparesis and presented 
with increased abdominal pain in the setting of multiple 
reinsertions of tubes to her G tube site, the differential 
included irritation from multiple insertions vs. gastroparesis 
flare vs. infection at site. Infection was not likely given her 
lack of WBC count, the fact that she was afebrile, and lack of 
erythema, fluctuance, or purulent drainage at the G tube site on 
skin exam. Other etiologies (ie pancreatitis, pregnancy, UTI) 
were ruled out by relatively normal UA, normal lipase, and 
negative hcg. 

For pain control, the patient was put on oral dilaudid while in 
house with decrease in pain the following day. She was 
rehydrated with IV fluids and given a pureed diet to eat. The 
day after admission the improved with decreased pain and was 
able to tolerate oral intake of the pureed foods with minimal 
nausea and no vomiting. She was deemed safe for discharge, 
especially given the fact that she had an already scheduled GJ 
tube reinsertion 2 days later. She was discharged on 2 days 
worth of vicodin for pain control. 

#Psych: While in house, the patient was continued on her home 
adderall, clonazepam, lithium, and trazadone. 
 
Medications on Admission:
Preadmission medications listed are correct and complete.  
Information was obtained from Patient.
1. amphetamine-dextroamphetamine *NF* 10 mg Oral BID 
2. Clonazepam 2 mg PO QHS 
3. Lithium Oral Solution 300 mg PO BID 
qAM and 2 ___ 
4. Lithium Oral Solution 600 mg PO QHS 
5. Multivitamins 1 TAB PO DAILY 
6. Omeprazole 20 mg PO BID 
7. Ondansetron 8 mg PO Q8H:PRN nausea 
8. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
9. Senna 1 TAB PO BID:PRN constipation 
10. Docusate Sodium 100 mg PO DAILY:PRN constipation 
11. traZODONE 50 mg PO HS:PRN insomnia 

 
Discharge Medications:
1. amphetamine-dextroamphetamine *NF* 10 mg Oral BID 
2. Clonazepam 2 mg PO QHS 
3. Docusate Sodium 100 mg PO DAILY:PRN constipation 
4. Lithium Oral Solution 300 mg PO BID 
qAM and 2 ___ 
5. Lithium Oral Solution 600 mg PO QHS 
6. Multivitamins 1 TAB PO DAILY 
7. Omeprazole 20 mg PO BID 
8. Ondansetron 8 mg PO Q8H:PRN nausea 
9. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
10. Senna 1 TAB PO BID:PRN constipation 
11. traZODONE 50 mg PO HS:PRN insomnia 
12. Acetaminophen 325-650 mg PO Q6H:PRN pain 
13. Hydrocodone-Acetaminophen (5mg-500mg 1 TAB PO Q6H:PRN pain 
Duration: 2 Days 
RX *hydrocodone-acetaminophen 5 mg-325 mg 1 (One) tablet(s) by 
mouth every six (6) hours Disp #*6 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Gastroparesis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___:

You were admitted to the hospital for abdominal pain and poor 
nutritional status. While you were admitted your pain was 
controlled with dilaudid and you were given IV fluids for 
rehydration. 

MEDICATIONS STARTED:
Tylenol (for pain)
Vicodin (for pain)
 
Followup Instructions:
___